US07651885B2
6,13-bis(4-butylphenyl)pentacene was synthesized as follows. A solution of 1-bromo-4-butylbenzene (about 5.09 grams, about 32.40 mmol) in about 20 milliliters of anhydrous tetrahydrofuran (THF) was added over a period of about 1 hour to a stirred suspension of magnesium turnings (about 0.79 grams, about 32.40 mmol) in about 10 milliliters of THF in a 250 milliliter round-bottomed flask under an inert argon atmosphere. The resultant mixture was stirred at about 60° C. for about 2 hours. A solution of 6,13-pentacenequinone (about 1.0 grams, about 3.24 mmol) in about 20 milliliters of THF was added and the resulting mixture was stirred at about 60° C. for about 2 hours. Subsequently, the reaction mixture was cooled to about 22° C. to about 25° C. and quenched with ice. The reaction mixture was extracted with toluene and the organic layer was separated and dried with anhydrous magnesium sulfate (MgSO4). The solvent was removed and a solution of potassium iodide (KI) (about 2.00 grams, about 12.0 mmol) in about 50 milliliters acetic acid (AcOH) was added to the solid residue. The resultant mixture was then refluxed for about 1 hour and then cooled to about 22° C. to about 25° C. A purple precipitate, obtained after filtration, was washed with water and methanol, yielding about 0.83 grams of 6,13-bis(4-butylphenyl)pentacene as a dark purple solid (about 47% yield). Further purification was conducted by sublimation. An overview of this process is set forth below in Scheme 1.

reactant | 1-bromo-4-butylbenzene | about 32.40 mmol, about 5.09 grams | BrC1=CC=C(C=C1)CCCC | C10H13Br
reactant | magnesium | about 32.40 mmol, about 0.79 grams | [Mg] | Mg
reactant | 6,13-pentacenequinone | about 3.24 mmol, about 1.0 grams | C1=CC=CC2=CC=3C(C4=CC5=CC=CC=C5C=C4C(C3C=C12)=O)=O | C22H12O2
reactant | potassium iodide | about 12.0 mmol, about 2.00 grams | [I-].[K+]
solvent | tetrahydrofuran | about 20 milliliters | O1CCCC1 | C4H8O
solvent | THF | about 10 milliliters | O1CCCC1 | C4H8O
solvent | THF | about 20 milliliters | O1CCCC1 | C4H8O
solvent | acetic acid | about 50 milliliters | C(C)(=O)O | C2H4O2
product | 6,13-bis(4-butylphenyl)pentacene | about 0.83 grams, about 47% yield | C(CCC)C1=CC=C(C=C1)C1=C2C=C3C=CC=CC3=CC2=C(C2=CC3=CC=CC=C3C=C12)C1=CC=C(C=C1)CCCC | C42H38
